US08044068B2
To a solution of 6-bromomethyl-2-chloro-4-methylquinoline (0.39 g) in dimethyl sulfide (5 mL) was added 1 M aqueous sodium hydroxide (5 mL) at room temperature, and the mixture was stirred at 70° C. for 1 h. After cooled to room temperature, the reaction solution was diluted with ethyl acetate. The organic layer was washed with saturated brine, the organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=3:1−ethyl acetate/hexane/chloroform=1:3:1−ethyl acetate) to obtain (2-chloro-4-methylquinolin-6-yl)methanol (0.14 g).

reactant | 6-bromomethyl-2-chloro-4-methylquinoline | 0.39 g | BrCC=1C=C2C(=CC(=NC2=CC1)Cl)C | C11H9BrClN
reactant | sodium hydroxide | 1 M, 5 mL | [OH-].[Na+]
solvent | dimethyl sulfide | 5 mL | CSC | C2H6S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-4-methylquinolin-6-yl)methanol | 0.14 g | ClC1=NC2=CC=C(C=C2C(=C1)C)CO | C11H10ClNO
